US06509329B1
Synthesis of N,N′-bis[[2-(3,4,5-Trimethoxyphenyl)-pyrimidin-4-yl]methyl ]homopiperazine
4-Chloromethyl-2-(3,4,5-trimethoxyphenyl)pyrimidine (300 mg) and homopiperazine (51 mg) were reacted in the same manner as in Example 1 to obtain the title compound as a free base.

reactant | 4-Chloromethyl-2-(3,4,5-trimethoxyphenyl)pyrimidine | 300 mg | ClCC1=NC(=NC=C1)C1=CC(=C(C(=C1)OC)OC)OC | C14H15ClN2O3
reactant | homopiperazine | 51 mg | N1CCNCCC1 | C5H12N2
product | N,N′-bis[[2-(3,4,5-Trimethoxyphenyl)-pyrimidin-4-yl]methyl ]homopiperazine | COC=1C=C(C=C(C1OC)OC)C1=NC=CC(=N1)CN1CCN(CCC1)CC1=NC(=NC=C1)C1=CC(=C(C(=C1)OC)OC)OC | C33H40N6O6
